reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@:4]([N:5]=[O:6])([C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],76.01270372732591
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][H:17]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],70.76761087093459
[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]=[C:4]=[O:5])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:12])([H:13])([H:14])[H:15],80.7990292443901
[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8]>>[C:3](=[C:4]([H:11])[H:12])([H:9])[H:10].[N:1]([C+:2]=[C:5]=[N-:6])([H:7])[H:8],59.362891043029
[C:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[C:3](=[C:4]([C:5]#[N:6])[H:15])([H:12])[H:13].[H:7][H:14],95.8108355463262
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:6]([H:14])([H:15])[N+:4]([C-:5]([H:12])[H:13])=[C:3]1[H:11],83.2453215015221
[C:1]([C:2]([H:10])([H:11])[H:17])([H:7])([H:8])[H:9].[C:3]([C:4]([H:13])([H:14])[H:15])(=[O+:5][C-:6]([H:16])[H:18])[H:12]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],19.963341796517497
[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6]>>[O:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[C:4]#[N:5],88.01783973617208
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C-:3][H:10])([H:7])([H:8])[H:9].[C:4]([C:5]#[N:6])([H:11])([H:12])[H:13],87.4042709506359
[C:1]1([H:8])([H:10])/[C:2](=[N:3]\[H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]1([O:7][H:9])[H:14]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],84.16169408838968
[C:1]([O:2][C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][H:13])([H:6])([H:7])[H:8].[C:3]1([H:9])([H:10])[C:4]([H:11])([H:12])[O:5]1,76.8302789832605
[O:1]([C@@:2]1([H:8])[C:3]([H:10])([H:11])[O:4][C@:5]1([N:6]([H:7])[H:13])[H:12])[H:9]>>[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],87.7798474627631
[O:1]=[C:2]([C:3](=[C:4])[C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7],2.593952331842786
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([N+:7]#[C-:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],58.984810365795404
[C:1]=[C:2]([C:3]#[N:4])[H:5]>>[C:1](#[C:2][H:5])[C:3]#[N:4],6.370846365395195
[C:1]([C:2]([C:3](=[C:5])[C:6](=[O:4])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],24.3672160217941
[C:1]([C@:2]1([H:14])[C@:3]2([H:11])[C@@:4]3([H:12])[C@:5]2([H:13])[C:6][C@@:7]13[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@:2]12[C@@:3]3([H:11])[C@:4]4([H:12])[C@@:5]3([H:13])[C@@:6]1([H:14])[C@:7]24[H:15])([H:8])([H:9])[H:10],44.687486586492724
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],63.0142135523664
[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([C:5]([H:13])([H:14])[H:15])[H:12])([H:6])([H:7])[H:8]>>[C:1]([C:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([H:9])[H:12])([H:10])[H:11])([H:6])([H:7])[H:8],68.2720471347878
[H:11][H:13].[O:1]([C:2]([C:3]1=[C:4]([H:12])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],67.47812787255842
[C:1]([O:2][C:3](=[C:4]([O-:5])[N+:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],33.2537413616133
[O:1]([C:2]1([C:5](=[O:6])[H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[C-:5]#[O+:6].[H:8][H:12].[O:1]([C:2]1=[C:3]([H:9])[C:4]1([H:10])[H:11])[H:7],94.92281401905107
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:6](=[C:5])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],15.499016925228602
[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4]2=[C:5]([H:12])[C:6]2=[C:7]1[H:13])[H:8],56.651244721486904
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2][C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],78.9334312613757
